US06911543B2
THF (200 mL) is chilled to −70° C. in a dry flask under N2, and N-butyllithium (24.4 mL, 55.0 mmol) is added drop-wise. The reaction is placed in an ice bath and DIA (7.71 mL, 55.0 mmol) in THF (20 mL) is added drop-wise. The solution is again chilled to −70° C., and 3-chloropyridine (4.75 mL, 50.0 mmol) in THF (20 mL) is added drop-wise. The reaction is allowed to stir for 4 h at −70° C. and ethyl formate (4.44 mL, 55.0 mmol) in THF (20 mL) is added. The reaction is stirred for an additional 3 h at −70° C. and quenched with H2O (500 mL). The layers are allowed to separate, and the aqueous layer is extracted with EtOAc (3×250 mL). The combined organic layer is dried over MgSO4, filtered, and concentrated to a dark brown solid. The crude material is chromatographed over 250 g slurry-packed silica, eluting with 50% EtOAc/hexane to give 3-chloroisonicotinaldehyde (C120) as an off-white solid (55% yield). MS (EI) for C6H4ClNO, m/z: 141 (M)+.

reactant | N-butyllithium | 55.0 mmol, 24.4 mL | [Li+].CCC[CH2-]
reactant | 3-chloropyridine | 50.0 mmol, 4.75 mL | ClC=1C=NC=CC1 | C5H4ClN
reactant | ethyl formate | 55.0 mmol, 4.44 mL | C(=O)OCC | C3H6O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 3-chloroisonicotinaldehyde | 55% yield | ClC1=C(C=O)C=CN=C1 | C6H4ClNO
